US07227035B2
Synthesis of N-(2-Benzoyl-4-chloro-phenyl)-4-methanesulfonyl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 115 mg of (2-amino-5-chloro-phenyl)-phenyl-methanone and 127 mg of 4-Methanesulfonyl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 2.92 (s, 3H), 7.34 (m, 3H), 7.434 (m, 2H), 7.51 (dd, 1H, J=8.8 Hz, 2.4 Hz), 7.60 (m, 1H), 7.75 (d, 1H, J=8.8 Hz), 7.80–7.86 (m, 4H), 9.86 (b, 1H). MS: m/z 450.9 (M++1).

reactant | (2-amino-5-chloro-phenyl)-phenyl-methanone | 115 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
reactant | 4-Methanesulfonyl-benzenesulfonyl chloride | 127 mg | CS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO4S2
product | N-(2-Benzoyl-4-chloro-phenyl)-4-methanesulfonyl-benzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)C | C20H16ClNO5S2
